US08470882B2
To travoprost free acid ((+)-fluprostenol free acid) 3 in MeOH/H2O is added L-Homoarginine and the solution is stirred for 30 minutes. The solvents are evaporated then azeotroped with Et2O and hexanes to give white crystalline travoprost-L-Homoarginine salt 5 (quantitative).

reactant | travoprost free acid | C1[C@@H]([C@@H]([C@H]([C@@H]1O)/C=C/[C@H](COC2=CC=CC(=C2)C(F)(F)F)O)C/C=C\CCCC(=O)O)O | C23H29F3O6
reactant | L-Homoarginine | N[C@@H](CCCCNC(=N)N)C(=O)O | C7H16N4O2
solvent | MeOH H2O | CO.O
product | travoprost L-Homoarginine | CC(C)OC(=O)CCC/C=C\C[C@H]1[C@H](C[C@H]([C@@H]1/C=C/[C@H](COC=2C=CC=C(C2)C(F)(F)F)O)O)O.N[C@@H](CCCCNC(=N)N)C(=O)O | InChI=1S/C26H35F3O6.C7H16N4O2/c1-17(2)35-25(33)11-6-4-3-5-10-21-22(24(32)15-23(21)31)13-12-19(30)16-34-20-9-7-8-18(14-20)26(27,28)29;8-5(6(12)13)3-1-2-4-11-7(9)10/h3,5,7-9,12-14,17,19,21-24,30-32H,4,6,10-11,15-16H2,1-2H3;5H,1-4,8H2,(H,12,13)(H4,9,10,11)/b5-3-,13-12+;/t19-,21-,22-,23+,24-;5-/m10/s1
